US08217060B2
A 100 mL round-bottomed flask was charged with 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] (3.86 g, 0.0152 mol), PdCl2dppf (303 mg, 0.415 mmol), KOAc (4.07 g, 0.0415 mol), and dppf (230 mg, 0.415 mmol), was flushed with Argon, treated with a solution of 4-bromo-2-nitro-phenylamine (3.00 g, 0.0138 mol) in anhydrous dioxane (30 mL), and heated to 100° C. overnight. The cooled mixture was filtered through a frit, and the solid was washed with EtOAc. The filtrate was diluted with 200 mL EtOAc and washed twice with 150 mL brine. The combined aqueous layers were extracted four times with 100 mL EtOAc. The combined organic layers were dried over MgSO4 and concentrated in vacuo. The residue was purified on a 200-g Sepra Si 50 SPE column (Isco system: flow rate=40 mL/min; eluting with EtOAc/hexane, 10:90, v/v over 15 min and 10:90 to 40:60, v/v over 25 min). The chromatography was repeated as above to yield 2-Nitro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine as a bright yellow solid.

reactant | 4,4,5,5,4′,4′,5′,5′-octamethyl-[2,2′]bi[[1,3,2]dioxaborolanyl] | 0.0152 mol, 3.86 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | KOAc | 0.0415 mol, 4.07 g | CC(=O)[O-].[K+]
reactant | 4-bromo-2-nitro-phenylamine | 0.0138 mol, 3.00 g | BrC1=CC(=C(C=C1)N)[N+](=O)[O-] | C6H5BrN2O2
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | dppf | 0.415 mmol, 230 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-Nitro-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | [N+](=O)([O-])C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)N | C12H17BN2O4
